US07741321B2
To a solution of methyl 1-(4-methoxyphenyl)cyclopropanecarboxylate (10.0 g, 48.5 mmol) in DCM (80 mL) was added EtSH (16 mL) under ice-water bath. The mixture was stirred at 0° C. for 20 min before AlCl3 (19.5 g, 0.15 mmol) was added slowly at 0° C. The mixture was stirred at 0° C. for 30 min. The reaction mixture was poured into ice-water, the organic layer was separated, and the aqueous phase was extracted with DCM (50 mL×3). The combined organic layers were washed with H2O, brine, dried over Na2SO4 and evaporated under vacuum to give 1-(4-hydroxy-phenyl)-cyclopropanecarboxylic acid methyl ester (8.9 g, 95%). 1H NMR (400 MHz, CDCl3) δ 7.20-7.17 (m, 2H), 6.75-6.72 (m, 2H), 5.56 (s, 1H), 3.63 (s, 3H), 1.60-1.57 (m, 2H), 1.17-1.15 (m, 2H).

reactant | methyl 1-(4-methoxyphenyl)cyclopropanecarboxylate | 48.5 mmol, 10.0 g | COC1=CC=C(C=C1)C1(CC1)C(=O)OC | C12H14O3
reactant | EtSH | 16 mL | CCS | C2H6S
reactant | AlCl3 | 0.15 mmol, 19.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-hydroxy-phenyl)-cyclopropanecarboxylic acid methyl ester | 8.9 g, 95% | COC(=O)C1(CC1)C1=CC=C(C=C1)O | C11H12O3
